US08420670B2
Ethanesulfonic {2-[4-(3,4-Dichloro-benzylamino)-2-methylquinolin-8-yloxy]-ethyl}-amide
Preparation was made using a similar procedure as described in example 21. Starting materials were [8-(2-aminoethoxy)-2-methylquinolin-4-yl]-(3,4-dichlorobenzyl)-amine dihydrochloride and ethanesulfonyl chloride.

reactant | [8-(2-aminoethoxy)-2-methylquinolin-4-yl]-(3,4-dichlorobenzyl)-amine dihydrochloride | Cl.Cl.NCCOC=1C=CC=C2C(=CC(=NC12)C)NCC1=CC(=C(C=C1)Cl)Cl
reactant | ethanesulfonyl chloride | C(C)S(=O)(=O)Cl | C2H5ClO2S
product | Ethanesulfonic {2-[4-(3,4-Dichloro-benzylamino)-2-methylquinolin-8-yloxy]-ethyl}-amide | ClC=1C=C(CNC2=CC(=NC3=C(C=CC=C23)OCCNS(=O)(=O)CC)C)C=CC1Cl | C21H23Cl2N3O3S
